US04725683
3-Acetyl-5-(4-(4-bromo-2-fluorophenoxy)phenoxy)-2,4-hexanedione
A mixture of 1.7 g (17 mmol) of 2,4-pentanedione, 30 ml of benzene and 0.26 g (11.3 mmol) of sodium was warmed at reflux for 3 hours. The reaction mixture was cooled to room temperature and a solution of 10 mmol of 2-(4-(4-bromo-2-fluorophenoxy)phenoxy)propanoyl chloride was added dropwise. The resulting mixture was warmed at reflux for 2.5 hours, stirred at room temperature overnight and poured into water and ether. The organic layer was separated, dried over MgSO4 and evaporated to dryness. The residue was purified by prep LC, eluting with 4:1 hexane:acetone. The product was taken up in ether and extracted with two portions of 1% aqueous NaOH. The combined aqueous layers were made acidic with aqueous HCl and extracted with ether. The ether layer was evaporated to dryness and the residue again purified by prep LC, eluting with 85:15 hexane:acetone. This gave a yellow oil which was thoroughly dried to leave 0.70 g product. Calc for C20H18BrFO5 : C, 54.93, H, 4.15. Found: C, 54.13, H, 4.30.

reactant | 2,4-pentanedione | 17 mmol, 1.7 g | CC(CC(C)=O)=O | C5H8O2
reactant | benzene | 30 ml | C1=CC=CC=C1 | C6H6
reactant | sodium | 11.3 mmol, 0.26 g | [Na] | Na
reactant | 2-(4-(4-bromo-2-fluorophenoxy)phenoxy)propanoyl chloride | 10 mmol | BrC1=CC(=C(OC2=CC=C(OC(C(=O)Cl)C)C=C2)C=C1)F | C15H11BrClFO3
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-Acetyl-5-(4-(4-bromo-2-fluorophenoxy)phenoxy)-2,4-hexanedione | 0.70 g | C(C)(=O)C(C(C)=O)C(C(C)OC1=CC=C(C=C1)OC1=C(C=C(C=C1)Br)F)=O | C20H18BrFO5
